2176-08-13 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2176-8-12**] 06:32 PM
 FEVER - 101.1
F - [**2176-8-12**] 08:00 PM
   Overnight, received 500 mL LR bolus + 1000 mL LR at 70 mL/hr
   Allergies:
   Tetracycline
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2176-8-13**] 02:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-8-13**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.1
C (100.5
   HR: 114 (105 - 143) bpm
   BP: 105/74(82) {94/47(58) - 143/107(117)} mmHg
   RR: 23 (16 - 27) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
    CVP: 8 (8 - 8)mmHg
   Total In:
                                                                     73 mL
                                                                    701 mL
   PO:
                                                                     30 mL
   TF:
   IVF:
                                                                     43 mL
                                                                    701 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    715 mL
   Urine:
                                                                    200 mL
                                                                    715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -128 mL
                                                                    -14 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   GEN: pleasant female, alert, lying comfortably in bed.
   HEENT: MMM, oropharynx clear,  nuck supple, difficult to ascertain
   thyromegaly [**3-11**] body habitus.
   CVS: tachycardic, irregular. no murmurs, gallops or rubs appreciated.
   RESP: CTA bilaterally, no wheezes or crackles
   ABD: soft, obese abdomen.  Pain to light palpation over left lower
   quadrant.  Pain to deep palpation in all 4 quadrants.  Active bowel
   sounds.  Unable to asess for hepatosplenomegaly due to body habitus. No
   rebound, no guarding.
   SKIN: pale complexion, no bruises noted, small left groin region 1"
   furuncle noted with erythematous margins and central yellowish purulent
   draining discharge.
   EXT: 2+pedal pulses, right foot swollen in comparison to left.  No
   edema noted.
   Rectal exam not done.
   Labs / Radiology
   681 K/uL
   10.3 g/dL
   97 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.1 mEq/L
   8 mg/dL
   101 mEq/L
   134 mEq/L
   32.4 %
   11.1 K/uL
        [image002.jpg]
                             [**2176-8-13**]  12:32 AM
   WBC
   11.1
   Hct
   32.4
   Plt
   681
   Cr
   1.0
   TropT
   <0.01
   Glucose
   97
   Other labs: PT / PTT / INR:16.7/31.3/1.5, CK / CKMB /
   Troponin-T:35/2/<0.01, Ca++:7.8 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Micro: C. Diff negative ; Wound stop: 3+ GPC in pairs and clusters, 1+
   GNR. BCx and Ucx pending
   Rads:
   1.
CT Abdomen/Pelvis:  Large ventral hernia with loops of bowel. No
   obstruction or intra-abdominal abscesses.  Chronic thickening of
   procto-sigmoid.  Increased size of mesenteric and pelvic lymphnodes.
   CBD dilation, unchaged.
   Assessment and Plan
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O CROHN'S DISEASE (REGIONAL ENTERITIS)
   52-year-old female with PMH significant for Crohn's Disease requiring
   multiple prior surgeries, atrial fibrillation, ventral hernia, and HTN
   who presents with fevers, diarrhea, and acute flare up of left sided
   abdominal pain.
   .
   #Abdominal pain: Pain not well controlled.  Predominantly LLQ area pain
   with associated fevers, nausea, dry heaves and nonbloody diarrhea up to
   20x daily per patient. Likely a flare-up of her underlying Crohn's
   disease. Negative for C. Diff.  CT Abdomen on [**8-12**] shows no bowel
   obstruction or abscess formation.  C.diff negative.  Additional
   gastroenteritis etiologies can not be ruled out as she is
   immunosuppressed and has history of frequent antibiotics.  She had been
   tentatively planning to have a joint surgery for ventral herniorrhaphy,
   proctosigmoidectomy and end colostomy jointly between Drs. [**Last Name (STitle) **] and
   [**Doctor First Name 8626**]coming weeks.
   --Increase Dilaudid PRN for abdominal pain, 0.5-1.5 mg Dilaudid q4h prn
   --IV Zofran for nausea
   --surgery recommends that patient may be stable to go to floor, but
   will reconfirm.
   --follow up GI
   --GI coverage with Abx: continue on vancomycin for enterococcus
   coverage, Flagyl and Zosyn for intra-abdominal infections and
   C.difficile coverage
   --Can likely discontinue flagyl as C. Diff negative.
   --continue IVFs for rehydration in setting of profound diarrhea,
   switching to LR to avoid non-AG metabolic acidosis
   --continue Asacol
   --consider steroids either PR or PO, but Humira may be best option
   --most likely plan to treat medically as Crohn
s flare
   #Atrial fibrillation: Longstanding known history of atrial fibrillation
   that was diagnosed about 10-11 months ago per patient. On home
   diltiazem and metoprolol TID for rate control and ASA 325mg daily.
   Likely exacerbated by recent dehydration in setting of diarrhea x 20
   daily, fevers, and poor PO intake. [**Month (only) 51**] also be related to thyroid
   dysfunction vs. new ACS, although less likely as having no SOB, CP.
   Cardiac enzymes negative.
   --rate control with IV metoprolol x1, followed by PO metoprolol TID
   regimen
   --change diltiazam to short acting to facilitate titration for rate
   control while in the ICU
   --Discontinue Advair
 long acting B blocker contraindicated
   --d/w surgery--restarting heparin while off of ASA in preparation for
   procedure with Dr. [**Last Name (STitle) **]/ Dr. [**First Name (STitle) **]
   [**Name (STitle) 8619**] aggressive CVP monitoring and IVFs
   --continue telemetry
   --repeat EKG
   --check TSH
   --consider TTE
   #Hypotension: Now resolved s/p 500 cc LR bolus and 1000 cc LR
   continuous at 70cc.  [Dropped to a low of 70s/40s in ED. Now has left
   IJ placed and getting additional IVFs on floor. Currently normotensive.
   She had drops in ED in setting of tachycardia to 140s per notes. ]
   --continue close monitoring on telemetry
   --maintain SBPs > 110 systolic, MAP> 65 range, CVP >[**8-14**]
   --continue IVF boluses, low continuous rate IVFs given ongoing diarrhea
   #Leukocytosis: WBC now 11.1 (nerutrophilia), decreased from 14. Likely
   due to a Crohn's disease flare-up with possible intra-abdominal
   abscesses. Meets SIRS criteria given rapid HR, temperatures >38 C, and
   WBC >12.  WBC possibly decreased today [**3-11**] 4+L of volume resuscitation
   on admission.
   --follow-up blood cultures, urine cultures
   --continue broad Abx coverage as outlined above for likely GI sources
   --monitor fevers, WBCs daily
   #Skin boil/furuncle - Possible underlying abscess over left groin
   region ar edge of mons pubis. Draining yellowish purulent discharge.
   +tenderness. Unlikely a fistula given apparent superficial location and
   distance from rectum.
   --consider f/up ultrasound
   --d/w surgery if need for I&D
   --f/u culture for swabs
   --continue on above Abx regimen with vanco/zosyn/flagyl x 48 hours
   total
   #FEN: Switch IVFs to LR to avoid non-AG metabolic acidosis, continue as
   NPO with ice chips overnight, replete electrolytes PRN, recheck lytes
   this afternoon given frequent K losses in diarrhea
   #Code Status: Full Code
   ICU Care
   Nutrition: NPO for now with ice chips
   Glycemic Control:  none now, NPO
   Lines:
   Multi Lumen - [**2176-8-12**] 06:32 PM
   18 Gauge - [**2176-8-12**] 06:32 PM
   Prophylaxis:
   DVT:  Heparin SC tid
   Stress ulcer:  Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Possible transfer to floor today if rate controlled

2176-08-14 06:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**8-13**]
   - requiring multiple fluid bolus to keep MAP > 65, SvO2>70%, urine o/p
   > 30cc/hr: 4.5 L Lactate since arriving on floor
   - GI recs: hold antiinflammatory Crohn's meds for now
   - one run VT for about 2 seconds
   - patient remain clinically asymptomatic
   Allergies:
   Tetracycline
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2176-8-13**] 08:03 AM
   Piperacillin - [**2176-8-13**] 04:18 PM
   Piperacillin/Tazobactam (Zosyn) - [**2176-8-14**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-8-13**] 10:00 PM
   Hydromorphone (Dilaudid) - [**2176-8-14**] 02:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-8-14**] 05:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.8
C (96.4
   HR: 94 (72 - 164) bpm
   BP: 106/55(67) {72/36(48) - 125/95(101)} mmHg
   RR: 14 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 71 Inch
    CVP: 312 (0 - 315)mmHg
   Mixed Venous O2% Sat: 57 - 66
   Total In:
                                                                  6,100 mL
                                                                  1,196 mL
   PO:
                                                                    390 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  5,710 mL
                                                                  1,146 mL
   Blood products:
   Total out:
                                                                  2,315 mL
                                                                    560 mL
   Urine:
                                                                  2,315 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,785 mL
                                                                    636 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   PHYSICAL EXAM
   GENERAL: Pleasant, well appearing ..... in NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].  JVP=
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**2-9**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   450 K/uL
   8.9 g/dL
   97 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.4 mEq/L
   8 mg/dL
   101 mEq/L
   135 mEq/L
   28.6 %
   6.9 K/uL
        [image002.jpg]
                             [**2176-8-13**]  12:32 AM
                             [**2176-8-13**]  03:24 PM
                             [**2176-8-13**]  09:30 PM
   WBC
   11.1
   6.9
   Hct
   32.4
   28.8
   28.6
   Plt
   681
   450
   Cr
   1.0
   1.0
   TropT
   <0.01
   Glucose
   97
   97
   Other labs: PT / PTT / INR:16.7/31.3/1.5, CK / CKMB /
   Troponin-T:35/2/<0.01, Lactic Acid:1.6 mmol/L, Ca++:7.9 mg/dL, Mg++:2.0
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O CROHN'S DISEASE (REGIONAL ENTERITIS)
   52-year-old female with PMH significant for Crohn's Disease requiring
   multiple prior surgeries, atrial fibrillation, ventral hernia, and HTN
   who presents with fevers, diarrhea, and acute flare up of left sided
   abdominal pain.
   .
   #Abdominal pain: Pain not well controlled.  Predominantly LLQ area pain
   with associated fevers, nausea, dry heaves and nonbloody diarrhea up to
   20x daily per patient. Likely a flare-up of her underlying Crohn's
   disease. Negative for C. Diff.  CT Abdomen on [**8-12**] shows no bowel
   obstruction or abscess formation.  C.diff negative.  Additional
   gastroenteritis etiologies can not be ruled out as she is
   immunosuppressed and has history of frequent antibiotics.  She had been
   tentatively planning to have a joint surgery for ventral herniorrhaphy,
   proctosigmoidectomy and end colostomy jointly between Drs. [**Last Name (STitle) **] and
   [**Doctor First Name 8626**]coming weeks.
   --Increase Dilaudid PRN for abdominal pain, 0.5-1.5 mg Dilaudid q4h prn
   --IV Zofran for nausea
   --surgery recommends that patient may be stable to go to floor, but
   will reconfirm.
   --follow up GI
   --GI coverage with Abx: continue on vancomycin for enterococcus
   coverage, Flagyl and Zosyn for intra-abdominal infections and
   C.difficile coverage
   --Can likely discontinue flagyl as C. Diff negative.
   --continue IVFs for rehydration in setting of profound diarrhea,
   switching to LR to avoid non-AG metabolic acidosis
   --continue Asacol
   --consider steroids either PR or PO, but Humira may be best option
   --most likely plan to treat medically as Crohn
s flare
   #Atrial fibrillation: Longstanding known history of atrial fibrillation
   that was diagnosed about 10-11 months ago per patient. On home
   diltiazem and metoprolol TID for rate control and ASA 325mg daily.
   Likely exacerbated by recent dehydration in setting of diarrhea x 20
   daily, fevers, and poor PO intake. [**Month (only) 51**] also be related to thyroid
   dysfunction vs. new ACS, although less likely as having no SOB, CP.
   Cardiac enzymes negative.
   --rate control with IV metoprolol x1, followed by PO metoprolol TID
   regimen
   --change diltiazam to short acting to facilitate titration for rate
   control while in the ICU
   --Discontinue Advair
 long acting B blocker contraindicated
   --d/w surgery--restarting heparin while off of ASA in preparation for
   procedure with Dr. [**Last Name (STitle) **]/ Dr. [**First Name (STitle) **]
   [**Name (STitle) 8619**] aggressive CVP monitoring and IVFs
   --continue telemetry
   --repeat EKG
   --check TSH
   --consider TTE
   #Hypotension: Now resolved s/p 500 cc LR bolus and 1000 cc LR
   continuous at 70cc.  [Dropped to a low of 70s/40s in ED. Now has left
   IJ placed and getting additional IVFs on floor. Currently normotensive.
   She had drops in ED in setting of tachycardia to 140s per notes. ]
   --continue close monitoring on telemetry
   --maintain SBPs > 110 systolic, MAP> 65 range, CVP >[**8-14**]
   --continue IVF boluses, low continuous rate IVFs given ongoing diarrhea
   #Leukocytosis: WBC now 11.1 (nerutrophilia), decreased from 14. Likely
   due to a Crohn's disease flare-up with possible intra-abdominal
   abscesses. Meets SIRS criteria given rapid HR, temperatures >38 C, and
   WBC >12.  WBC possibly decreased today [**3-11**] 4+L of volume resuscitation
   on admission.
   --follow-up blood cultures, urine cultures
   --continue broad Abx coverage as outlined above for likely GI sources
   --monitor fevers, WBCs daily
   #Skin boil/furuncle - Possible underlying abscess over left groin
   region ar edge of mons pubis. Draining yellowish purulent discharge.
   +tenderness. Unlikely a fistula given apparent superficial location and
   distance from rectum.
   --consider f/up ultrasound
   --d/w surgery if need for I&D
   --f/u culture for swabs
   --continue on above Abx regimen with vanco/zosyn/flagyl x 48 hours
   total
   #FEN: Switch IVFs to LR to avoid non-AG metabolic acidosis, continue as
   NPO with ice chips overnight, replete electrolytes PRN, recheck lytes
   this afternoon given frequent K losses in diarrhea
   #Code Status: Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-8-12**] 06:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-08-15 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -pt with episodes of desaturations <90
   -maintanence fluids restarted for hypotension, decreased UOP for a few
   hrs
   -still complaining of frequent nonbloody stools but diminished volume
   Allergies:
   Tetracycline
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2176-8-13**] 04:18 PM
   Vancomycin - [**2176-8-14**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2176-8-15**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-8-14**] 09:36 PM
   Hydromorphone (Dilaudid) - [**2176-8-15**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-8-15**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 79 (79 - 140) bpm
   BP: 88/49(57) {80/25(49) - 119/82(97)} mmHg
   RR: 11 (11 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 122.4 kg (admission): 119.4 kg
   Height: 71 Inch
    CVP: 19 (15 - 19)mmHg
   Total In:
                                                                  4,575 mL
                                                                    834 mL
   PO:
                                                                    170 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  4,405 mL
                                                                    714 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                  1,405 mL
   Urine:
                                                                  1,550 mL
                                                                  1,405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,025 mL
                                                                   -571 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   GENERAL: petulant because in pain, A+O x 3
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA;  MMM. Neck Supple, No LAD, No thyromegaly.
   CARDIAC:irregularly irregular. Normal S1, S2. No murmurs, rubs or
   [**Last Name (un) 1011**]. No appreciable  JVP
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN:obese, tender in left hand quadrant esp over ventral hernia,
   +BS; no guarding or rebound tenderness
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: unchanged shallow ulceration over left groin
   PSYCH: Listens and responds to questions appropriately
   Labs / Radiology
   412 K/uL
   8.4 g/dL
   77 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.6 mEq/L
   6 mg/dL
   103 mEq/L
   138 mEq/L
   27.9 %
   6.2 K/uL
        [image002.jpg]
                             [**2176-8-13**]  12:32 AM
                             [**2176-8-13**]  03:24 PM
                             [**2176-8-13**]  09:30 PM
                             [**2176-8-14**]  05:16 AM
                             [**2176-8-14**]  05:34 PM
                             [**2176-8-15**]  04:14 AM
   WBC
   11.1
   6.9
   6.7
   6.2
   Hct
   32.4
   28.8
   28.6
   26.3
   32.2
   27.9
   Plt
   681
   450
   443
   412
   Cr
   1.0
   1.0
   0.9
   TropT
   <0.01
   Glucose
   97
   97
   77
   Other labs: PT / PTT / INR:16.7/31.3/1.5, CK / CKMB /
   Troponin-T:35/2/<0.01, Lactic Acid:1.6 mmol/L, Ca++:7.8 mg/dL, Mg++:2.0
   mg/dL, PO4:4.4 mg/dL
   Urine culture: negative
   Stool cx: no shigella or salmonella
   TTE: mild global left ventricular hypokinesis (LVEF = 40-50%) most
   likely related to the atrial fibrillation.
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O CROHN'S DISEASE (REGIONAL ENTERITIS)
   52-year-old female with PMH significant for Crohn's Disease requiring
   multiple prior surgeries, atrial fibrillation, ventral hernia, and HTN
   who presents with fevers, diarrhea, and acute flare up of left sided
   abdominal pain.
   #Low blood pressure:  Patient has had low blood pressure with MAP
   around 60  since admission to ICU.  Patient has remained clinically
   stable with no dizziness, SOB, AMS, or chest pain.  While hypovolemic
   shock or sepsis were inital concerns upon admission, it seems more
   likely that the patient has mild hypovolemia in the setting of
   physiologic low blood pressure
   - monitor patient clinically, maintaining urine output >30cc/hr.  Close
   monitoring of CVP and central venous saturations do not benefit the
   patient or guide practice
   - has not required fluid bolus while maintained on continuous IVF at
   125 cc hr LR.  Patient is at risk of hypokalemia in setting of copious
   diarrhea so LR is better choice than NS for fluid resuscitation
   - decrease AV nodal blockade; d/ced diltiazem to augment cardiac output
   - continue antibiotics for possible infectious gastroenteritis (see
   below)
   #Abdominal pain/ diarrhea: Abdominal pain has remained at patient
   baseline and seems more related to ventral hernia and multiple
   abdominal surgeries than an intraabdominal infection, especially as CT
   abdoman unrevealing.  Frequent  bowel movements most likely secondary
   to Chron
s flare vs gastroenteritis etiology (chronically
   immunosuppressed and on frequent antibiotics).  Patient has tentative
   joint surgery for ventral herniorrhaphy, proctosigmoidectomy and end
   colostomy with Drs. [**Last Name (STitle) **] and [**Name5 (PTitle) 8618**] coming weeks.
   -- pain adequately controlled with Dilaudid 0.5- 1.5mg q3h prn
   --IV Zofran for nausea
   --surgery recommends that patient may be stable to go to floor, but
   will reconfirm.
   -- GI rec not start anti-crohn
s medications for now, cont. asacol
   -- de-escalate broad spectrum antibiotics to fluoroquinolone
   --continue IVFs for rehydration in setting of profound diarrhea
   -- hold anticoagulation for A. fib in setting of acute flare with
   bloody diarrhea
   #Atrial fibrillation: Longstanding known history of atrial fibrillation
   that was diagnosed about 10-11 months ago per patient. On home
   diltiazem and metoprolol TID for rate control and ASA 325mg daily.
   Likely exacerbated by recent dehydration in setting of diarrhea x 20
   daily, fevers, and poor PO intake.
   -- TSH normal, Cardiac enzymes negative.
   -- cardiology consult requested by surgery in light of upcoming surgery
   -- no indication for cardioversion now as patient has surgery planned
   and would need to be on anticoagulation three weeks prior to
   cardioversion and several weeks after
   --rate control with metoprolol 100mg PO TID regimen: dose reduction as
   necessary to maintain BP and HR
   --Discontinue Advair
 long acting B blocker contraindicated
   --hold anticoagulation for now as patient has active Crohn
s flare and
   has planned surgery in future
   --continue telemetry
   # Anemia: stable hct; likely dilutional anemia superimposed on anemia
   of chronic disease
   -- active T+S
   -- transfuse for hct < 21
   #Leukocytosis: WBC now 11.1 (nerutrophilia), decreased from 14. Likely
   due to a Crohn's disease flare-up with possible intra-abdominal
   abscesses. Meets SIRS criteria given rapid HR, temperatures >38 C, and
   WBC >12.  WBC possibly decreased today [**3-11**] 4+L of volume resuscitation
   on admission.
   --follow-up blood cultures, urine cultures negative
   --continue Abx coverage as outlined above for likely GI sources
   --monitor fevers, WBCs daily
   #Skin boil/furuncle - Unlikely a fistula given apparent superficial
   location and distance from rectum
   -- stable
   -- local wound care
   ICU Care
   Nutrition: on clears
   Glycemic Control:
   Lines:
   Multi Lumen - [**2176-8-12**] 06:32 PM
   Prophylaxis:
   DVT: heparine
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: stable, transfer to floor